US06518273B1
4-{[3,5-Bis(trifluoromethyl)phenyl]methyl}-1-{3-[5-chloro-2-(4-chlorophenyl)-1H-indol-3-yl]-1-oxopropyl}piperazine
1-(Bromomethyl)-3,5-bis(trifluoromethyl)benzene (83 mg) was added to a mixture of 1-{3-[5-chloro-2-(4-chlorophenyl)-1H-indol-3-yl]-1-oxopropyl}piperazine (Description 30, 35 mg) and potassium carbonate (36 mg) in acetone (3 mL) and the mixture was stirred at room temperature for 2 h. Methanol (1 mL) and ethyl acetate (10 mL) were added and the mixture was washed with water. The organic fraction was filtered through a plug of silica in a Bond Elut™ cartridge, eluting with hexane/EtOAc (80:20 increasing to 60:40), to give the title compound as a colorless solid (49 mg, 89%). 1H NMR (360 MHz, CDCl3) δ2.16-2.19 (2H, m), 2.33-2.36 (2H, m), 2.59-2.63 (2H, m), 3.15-3.20 (2H, m), 3.28-3.30 (2H, m), 3.53 (2H, s), 3.58-3.61 (2H, m), 7.13 (1H, dd, J 8.7, 1.8 Hz), 7.25 (1H, d, J 8.3 Hz), 7.36-7.53 (6H, m), 7.77 (2H, s), and 8.51 (1H, s). m/z (ES+) 628, 630 (M+1).

reactant | 1-(Bromomethyl)-3,5-bis(trifluoromethyl)benzene | 83 mg | BrCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C9H5BrF6
reactant | 1-{3-[5-chloro-2-(4-chlorophenyl)-1H-indol-3-yl]-1-oxopropyl}piperazine | 35 mg | ClC=1C=C2C(=C(NC2=CC1)C1=CC=C(C=C1)Cl)CCC(=O)N1CCNCC1 | C21H21Cl2N3O
reactant | potassium carbonate | 36 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Methanol | 1 mL | CO | CH4O
solvent | acetone | 3 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 4-{[3,5-Bis(trifluoromethyl)phenyl]methyl}-1-{3-[5-chloro-2-(4-chlorophenyl)-1H-indol-3-yl]-1-oxopropyl}piperazine | 49 mg, 89% | FC(C=1C=C(C=C(C1)C(F)(F)F)CN1CCN(CC1)C(CCC1=C(NC2=CC=C(C=C12)Cl)C1=CC=C(C=C1)Cl)=O)(F)F | C30H25Cl2F6N3O
